US05891871
1-(4-Amino-3-methoxyphenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
To a solution of 7,8-methylenedioxy-1-(3-methoxy-4-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one (136 mg, 0.387 mmol) in acetone (6 mL) was added ethanol (3 mL), water (4 mL), 5% Pd/C (33 mg) and HCO2NH4 (240 mg, 3.81 mmol). The mixture was stirred at room temperature for 3 h. The catalyst was filtered out. The filtrate was concentrated in vacuo and the resulting residue was collected by filtration, washed with water, and dried in vacuo to afford the title compound as a light yellow solid (98 mg, 0.31 mmol, 80%), mp: 147°-150° C. 1H NMR (CDCl3) 8.32 (s, 1H), 7.24 (d, J=1.9, 1H), 6.87 (dd, J=1.9, 8.0, 1H), 6.82 (s, 1H), 6.73 (s, 1H), 6.02 (s, 2H), 4.08 (s, 2H), 3.90 (s, 3H), 3.43 (s, 211). Anal. calcd. for C17H15N3O4.(3/8)H2O: C, 61.49; H, 4.78; N, 12.65. Found: C, 61.33; H, 4.39; N, 12.54.

reactant | 7,8-methylenedioxy-1-(3-methoxy-4-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 0.387 mmol, 136 mg | C1OC=2C(=CC3=C(CC(NN=C3C3=CC(=C(C=C3)[N+](=O)[O-])OC)=O)C2)O1 | C17H13N3O6
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | water | 4 mL | O | H2O
solvent | acetone | 6 mL | CC(=O)C | C3H6O
catalyst | Pd/C | 33 mg | [Pd] | Pd
product | 1-(4-Amino-3-methoxyphenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 0.31 mmol, 98 mg, 80% | NC1=C(C=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)=O)OC | C17H15N3O4
